US04730003
2-(1-Propenyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 11, 0.95 g. 5,6-diamino-3,3-dimethylindolin-2-one and 0.43 g. crotonic acid are heated with 10 ml. polyphosphoric acid for 30 minutes at 170° C. (bath temperature). The cooled reaction mixture is dissolved in 40 ml. water and neutralised with concentrated aqueous ammonia solution. Insoluble material is filtered off with suction, washed with water and dissolved in 100 ml. hot ethanol. After treatment with active charcoal, the hot filtrate is evaporated in a vacuum and the evaporation residue is triturated with diethyl ether. There is thus obtained 0.7 g. of the title compound which contains 0.5 mole of water per mole of substance; m.p. 252°-254° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | crotonic acid | C(\C=C\C)(=O)O | C4H6O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | water | 0.5 mole | O | H2O
product | 2-(1-Propenyl)-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(=CC)C=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C14H15N3O
